US06825018B1
L-sorbose is an important intermediate for the synthesis of L-ascorbic acid (vitamin C) by the Reichstein method (see FIG. 1). When D-sorbitol is chemically oxidized, approximately a half of the product becomes D-sorbose, whereas when D-sorbitol is brought into contact with a microorganism having an SLDH activity, only an L-enantiomer is obtained in a yield of about 95%. Therefore, a fermentation method has been conventionally used for converting D-sorbitol to L-sorbose.

reactant | L-sorbose | OCC(=O)[C@@H](O)[C@H](O)[C@@H](O)CO | C6H12O6
reactant | L-ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | D-sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | D-sorbose | OCC(=O)[C@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
product | L-enantiomer | yield of about 95% | CC1(OC[C@@]2(O1)C(=O)[C@@H]3[C@H](CO2)OC(O3)(C)C)C | C12H18O6
